US05352792
To a suspension of 7β-amino-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester hydrochloride (994 mg: 2 mMol.) and (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-methoxyiminoacetic acid (662 mg: 2.2 mMol.) in dichloromethane (16 ml) is added at -30° C. N-methylmorpholine (0.72 ml: 6.6 mMol.) and phenyl dichlorophosphate (0.33 ml: 2.2 mMol.), and the mixture is stirred at the same temperature for 2.5 hours. The reaction mixture is quenched by adding 10% hydrochloric acid (5 ml) and extracted with ethyl acetate. The extract is washed with water, 5% aqueous sodium hydrogen carbonate, and water, dried over sodium sulfate, and concentrated. The residue is purified by silica gel chromatography (toluene: ethyl acetate=2:1 containing 0.5% of acetic acid) to give 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-methoxyiminoacetyl]amino-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester (1.07 g). Yield: 72%.

reactant | 7β-amino-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester hydrochloride | 2 mMol, 994 mg | Cl.C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)OS(=O)(=O)C
reactant | (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-methoxyiminoacetic acid | 2.2 mMol, 662 mg | C(C)(C)(C)OC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C11H15N3O5S
reactant | N-methylmorpholine | 6.6 mMol, 0.72 ml | CN1CCOCC1 | C5H11NO
reactant | phenyl dichlorophosphate | 2.2 mMol, 0.33 ml | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
product | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-methoxyiminoacetyl]amino-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester | 1.07 g, Yield: 72% | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)OS(=O)(=O)C | C32H33N5O10S3
